US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(2-pyrazol-1-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CIV)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50 mg, 0.148 mmol) and 2-Pyrazol-1-yl-benzaldehyde (28 mg, 0.163 mmol) were reacted to produce 33 mg (45%) of the title compound. mp: 120° C., 1H NMR (300 MHz, DMSO-d6): 12.88 (s, 1H), 8.00 (s, 1H), 7.82 (d, J=8 Hz, 1H), 7.77 (s, 1H), 7.66 (m, 3H), 7.60 (m, 1H), 7.57 (s, 1H), 7.16 (s, 1H), 7.04 (d, J=8 Hz, 1H), 6.37 (s, 1H), 6.22 (s, 1H), 6.10 (s, 1H), 4.87 (t, J=8 Hz, 1H), 3.32 (s, 1H), 2.80 (s, 1H), 2.16 (d, J=8 Hz, 1H), 1.31 (d, J=8 Hz, 1H). MS: 490, 492 (M+H), HPLC: 2.28 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.148 mmol, 50 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 2-Pyrazol-1-yl-benzaldehyde | 0.163 mmol, 28 mg | N1(N=CC=C1)C1=C(C=O)C=CC=C1 | C10H8N2O
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(2-pyrazol-1-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 33 mg, 45% | BrC=1C(=C2C(=NC1)NC(=N2)C2=C(C=CC=C2)N2N=CC=C2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C23H20BrN7O
